US09216980B2
Step 2: 6-Bromo-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-bromo-3-iodo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (0.64 g, 1.7 mmol), 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-4-trifluoromethyl piperidine (1.14 g, 3.1 mmol) and 1,1′-[bis(diphenyl phosphino)ferrocene]dichloropalladium(II) (0.21 g, 0.26 mmol) in 2-methyl-THF (26 mL) and saturated aqueous sodium carbonate solution (12 mL) was heated at 85° C. for 16 h. The cooled reaction mixture was filtered through celite and partitioned between DCM and water and the phases were separated. The organic phase was dried over sodium sulfate, filtered and evaporated then the residue was purified by flash chromatography (silica, 40 g column, ISCO, 0-15% methanol in DCM). Trituration of the resultant residue with acetonitrile afforded the title compound as a tan solid (57 mg, 7%). NMR (CD3OD, 300 MHz): 8.84 (d, J=2.2 Hz, 1H), 8.70-8.67 (m, 2H), 8.27 (d, J=1.0 Hz, 1H), 7.67 (d, J=8.0 Hz, 2H), 7.49 (d, J=8.0 Hz, 2H), 3.63 (s, 2H), 3.11-3.02 (m, 2H), 2.14-2.02 (m, 3H), 1.94-1.84 (m, 2H), 1.76-1.59 (m, 2H. LCMS (Method B): RT=2.55 min, M+H+=489.

reactant | 6-bromo-3-iodo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 1.7 mmol, 0.64 g | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)I | C10H5BrIN3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-4-trifluoromethyl piperidine | 3.1 mmol, 1.14 g | CC1(OB(OC1(C)C)C1=CC=C(CN2CCC(CC2)C(F)(F)F)C=C1)C | C19H27BF3NO2
solvent | sodium carbonate | 12 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 6-Bromo-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 57 mg, 7% | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)C(F)(F)F | C23H20BrF3N4
